US07825256B2
NaBH3CN (76 mg, 1.2 mmol) was added all at once to a stirred solution of 2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-N-methylpyrrolidine-3-carboxamide (230 mg, 0.80 mmol), tert-butyl benzo[d][1,3]dioxol-5-ylmethyl(2-oxoethyl)carbamate (280 mg, 0.95 mmol), acetic acid (100 μL, 1.59 μmol) and trimethyl orthoformate (20 ml). The reaction mixture stirred at rt for 16 h then water (20 mL) was added. The solution was extracted with EtOAc (2×20 mL), the combined organic layers were dried over Na2SO4, filtered and concentrated under vacuum. The residue was purified using column chromatography (20:1 CHCl3/MeOH) to afford 100 mg (22%) of tert-butyl 2-(2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-3-(methylcarbamoyl)pyrrolidin-1-yl)ethyl(benzo[d][1,3]dioxol-5-ylmethyl)carbamate as a colorless oil.

reactant | NaBH3CN | 1.2 mmol, 76 mg | [BH3-]C#N.[Na+]
reactant | 2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-N-methylpyrrolidine-3-carboxamide | 0.80 mmol, 230 mg | N1(C=NC=C1)C1=NC(=CC(=N1)C1NCCC1C(=O)NC)C | C14H18N6O
reactant | tert-butyl benzo[d][1,3]dioxol-5-ylmethyl(2-oxoethyl)carbamate | 0.95 mmol, 280 mg | O1COC2=C1C=CC(=C2)CN(C(OC(C)(C)C)=O)CC=O | C15H19NO5
reactant | trimethyl orthoformate | 20 ml | C(OC)(OC)OC | C4H10O3
catalyst | acetic acid | 1.59 μmol, 100 μL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
product | tert-butyl 2-(2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-3-(methylcarbamoyl)pyrrolidin-1-yl)ethyl(benzo[d][1,3]dioxol-5-ylmethyl)carbamate | 100 mg, 22% | N1(C=NC=C1)C1=NC(=CC(=N1)C1N(CCC1C(NC)=O)CCN(C(OC(C)(C)C)=O)CC1=CC2=C(OCO2)C=C1)C | C29H37N7O5
